US08227636B2
Octanedioic acid phenylamide(7-phenylcarbamoyl-heptanoyloxy)-amide.
To a stirring solution of suberanilic acid (3.0 g, 12.0 mmol) in DMF (60 mL) was added 1-hydroxybenzotriazole (1.79 g, 13.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) (2.54 g, 13.2 mmol). After 5 mins, a solution of SAHA (3.18 g, 12.0 mmol) in DMF (30 mL) was added to the mixture with stirring. After 24 h, the solvent was removed and the residue was triturated with EtOAc (50 mL). The slurry was filtered to yield an off-white solid, which was triturated in CH2Cl2 (50 mL). The slurry was filtered yielding a white solid (4.6 g, 77%). Half of the material was purified further by repeating the washing procedures with an addition of H2O (20 mL) in the EtOAc wash. The white solid was filtered to yield the desired material (2.1 g). MP: 151-153° C. 1H NMR (DMSO-d6) δ 11.51 (s, 1H), 9.82 (s, 2H), 7.54 (d, J=7.9 Hz, 4H), 7.23 (dd, J=7.9, 7.6 Hz, 4H), 6.97 (t, J=7.6 Hz, 2H), 2.39 (t, J=7.2 Hz, 2H), 2.24 (t, J=6.8 Hz, 4H), 1.98 (t, J=6.8 Hz, 2H), 1.66-1.38 (m, 8H), 1.38-1.16 (m, 8H). 13C NMR (DMSO-d6) δ 171.33, 169.94, 139.49, 128.72, 123.02, 119.21, 36.49, 32.02, 31.06, 28.50, 28.37, 28.14, 25.12, 25.05, 24.79, 24.38. MS (EI): cal'd (MH+) 496, exp (MH+) 496.

reactant | suberanilic acid | 12.0 mmol, 3.0 g | C(CCCCCCC(=O)NC1=CC=CC=C1)(=O)O | C14H19NO3
reactant | 1-hydroxybenzotriazole | 13.2 mmol, 1.79 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 13.2 mmol, 2.54 g | Cl.CN(CCCN=C=NCC)C
reactant | SAHA | 12.0 mmol, 3.18 g | C1=CC=C(C=C1)NC(=O)CCCCCCC(=O)NO | C14H20N2O3
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Octanedioic acid phenylamide(7-phenylcarbamoyl-heptanoyloxy)-amide | 4.6 g, 77% | C1(=CC=CC=C1)NC(=O)CCCCCCC(=O)ONC(CCCCCCC(=O)NC1=CC=CC=C1)=O | C28H37N3O5
